US07863314B2
D. 3-[5-Amino-4-(3-methoxybenzoyl)-pyrazol-1-yl]-4,N-dimethyl-benzamide
To a stirred solution of 3-[5-Amino-4-(3-methoxybenzoyl)-pyrazol-1-yl]-4-methylbenzoic acid C (50 mg, 0.14 mmol, 1.0 eq) in 10 mL of DMF was added EDCI (41 mg 0.21 mmol, 1.5 eq), HOBt (29 mg, 1.5 mmol, 2.0 eq), and diisopropylethylamine (55 mg, 0.43 mmol, 3.0 eq) and the solution was stirred for 15 minutes at room temperature when methylamine hydrochloride (13 mg, 0.19 mmol, 1.5 eq) was added and the reation stirred for 1 hour. The mixture was diluted with EtOAc (300 mL) and washed with water (2×25 mL) and brine (25 mL), dried (Na2SO4) and concentrated. The product was purified by flash chromatography on silica gel to provide the product to provide the product (15 mg, 32%) as a brown solid: HPLC (4 minute 10-90 gradient) tR 1.97 min; MS m/z 365.2 [M+H]+.

reactant | 3-[5-Amino-4-(3-methoxybenzoyl)-pyrazol-1-yl]-4-methylbenzoic acid | NC1=C(C=NN1C=1C=C(C(=O)O)C=CC1C)C(C1=CC(=CC=C1)OC)=O | C19H17N3O4
reactant | EDCI | 0.21 mmol, 41 mg, 1.5 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.5 mmol, 29 mg, 2.0 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 0.43 mmol, 55 mg, 3.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine hydrochloride | 0.19 mmol, 13 mg, 1.5 eq | Cl.CN
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 3-[5-Amino-4-(3-methoxybenzoyl)-pyrazol-1-yl]-4,N-dimethyl-benzamide | 15 mg, 32% | NC1=C(C=NN1C=1C=C(C(=O)NC)C=CC1C)C(C1=CC(=CC=C1)OC)=O | C20H20N4O3
